*BZX84C6V2LT1 MCE 6/20/97
*Ref: Motorola TVS/Zener Databook, Q2/94
*6.2V 1000mW Si Zener pkg:SOT-23 1,3
.SUBCKT BZX84C6V2LT1 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  5.685
.MODEL DF D (IS=5.02N RS=42M N=1.7 CJO=185P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=3.12N RS=3 N=1.4)
.ENDS 
* Origin: Mcediode.lib
